US06642229B2
4-(3-Bromophenyl)-4H-[1,2,4]triazole (2.5 g, 11.1 mmol), bis(neopentyl glycolato)diborane (2.77 g, 12.2 mmol), KOAc (3.3 g, 33.5 mmol) and Pd(dppf)Cl2 (456 mg, 5 mol %) in 1,4-dioxane (100 ml) were reacted as described in Example 38 to yield 4-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-4H-[1,2,4]triazole (0.78 g, 27%): δH (360 MHz, CDCl3) 1.04 (6H, s), 3.80 (4H, s), 7.40-7.50 (1H, m), 7.53 (1H, J 7.5), 7.80 (1H, s), 7.89 (1H, d, J 7.5), 8.57 (2H, s); m/z (ES+) 257 (M++H).

reactant | 4-(3-Bromophenyl)-4H-[1,2,4]triazole | 11.1 mmol, 2.5 g | BrC=1C=C(C=CC1)N1C=NN=C1 | C8H6BrN3
reactant | bis(neopentyl glycolato)diborane | 12.2 mmol, 2.77 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 33.5 mmol, 3.3 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 456 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-4H-[1,2,4]triazole | 0.78 g, 27% | CC1(COB(OC1)C=1C=C(C=CC1)N1C=NN=C1)C | C13H16BN3O2
